US05709911
First, 2 g of 60% sodium hydride and 80 ml of dimethoxyethane were placed in a 200 ml flask whose content was replaced with argon. Then, 9.1 g of trimethyl phosphonoacetate was added dropwise to the reaction mixture under ice water cooling. The resultant reaction mixture was allowed to warm to room temperature and stirred until the generation of hydrogen stopped. Then, 11.2 g of trans-4-(2,3-difluorophenyl)cyclohexanecarbaldehyde was added dropwise to the reaction mixture under ice water cooling. The reaction mixture was allowed to warm to room temperature and stirred overnight. Water was added to the reaction mixture, and an organic layer was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, a solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: toluene/hexane=3/1 to toluene) to obtain 13.6 g of 1-[trans-4-(2-methoxycarbonylvinyl)cyclohexyl]-2,3-difluorobenzene (Y: 97.0%). The compound thus obtained had a purity of 96% (mixture of E and Z isomers).

reactant | sodium hydride | 2 g | [H-].[Na+]
reactant | trimethyl phosphonoacetate | 9.1 g | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | hydrogen | [H][H] | H2
reactant | trans-4-(2,3-difluorophenyl)cyclohexanecarbaldehyde | 11.2 g | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](CC1)C=O | C13H14F2O
solvent | Water | O | H2O
solvent | dimethoxyethane | 80 ml | C(OC)COC | C4H10O2
product | 1-[trans-4-(2-methoxycarbonylvinyl)cyclohexyl]-2,3-difluorobenzene | 13.6 g, 97.0% | COC(=O)C=C[C@@H]1CC[C@H](CC1)C1=C(C(=CC=C1)F)F | C16H18F2O2
